US05061726
A solution of hydrobromic acid in acetic acid (30%, 0.5 ml) was added to a solution of 2-isopropylpropane-1,3-diol (10 g) in glacial acetic acid (20 ml) and the mixture heated to reflux for 20 minutes. A further portion of 30% hydrobromic acid in acetic acid (26 ml) was then added dropwise and the resulting mixture maintained at reflux for a further 6 hours. The solvent was then removed in vacuo, and residues removed by azeotroping with hexane, to leave 2-bromomethyl-3-methylbutyl acetate (15 g) which was used without further purification.

reactant | hydrobromic acid | Br | BrH
reactant | 2-isopropylpropane-1,3-diol | 10 g | C(C)(C)C(CO)CO | C6H14O2
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 26 ml | C(C)(=O)O | C2H4O2
product | 2-bromomethyl-3-methylbutyl acetate | 15 g | C(C)(=O)OCC(C(C)C)CBr | C8H15BrO2
